US07776910B2
3-[4-(3-Fluoro-benzenesulfonyl)-2-hydroxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (120 mg) was dissolved in THF (2 mL) and lithiumborohydride (7.94 mg, 0.365 mmol) was added under argon atmosphere. The reaction mixture was stirred at room temperature for 6 hours, then cooled to 0-5° C. and a solution of 10% KHSO4/Na2SO4 was carefully added until pH 2 was reached. The resulting mixture was extracted with EtOAc, and the combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (hexane/EtOAc, 1/1) to give 103 mg (91% yield) of 3-[4-(3-fluoro-benzenesulfonyl)-2-(2-hydroxy-ethoxy)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 3-[4-(3-Fluoro-benzenesulfonyl)-2-hydroxy-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 120 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)O | C21H24FNO5S
reactant | lithiumborohydride | 0.365 mmol, 7.94 mg | [BH4-].[Li+]
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[4-(3-fluoro-benzenesulfonyl)-2-(2-hydroxy-ethoxy)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 103 mg, 91% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)OCCO | C23H28FNO6S
